US05256675
A solution of 3-chloroperbenzoic acid (4.9 g) in dichloromethane (100 ml) was dropwise added to a solution of 2-amino-4-(4-aminophenylthiomethyl)thiazole (5.1 g) in a mixture of dichloromethane (200 ml) and N,N-dimethylformamide (10 ml) at 5° C. with stirring. The mixture was stirred at 5° C. for 1.5 hours with stirring. The precipitates were collected by filtration, washed with ethyl acetate and dried in vacuo to give solid. The solid was recrystallized from ethanol to give 2-amino-4-(4-aminophenylsulfinylmethyl)thiazole (4.70 g, yield: 86.3%).

reactant | 3-chloroperbenzoic acid | 4.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-amino-4-(4-aminophenylthiomethyl)thiazole | 5.1 g | NC=1SC=C(N1)CSC1=CC=C(C=C1)N | C10H11N3S2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-(4-aminophenylsulfinylmethyl)thiazole | 4.70 g, yield: 86.3% | NC=1SC=C(N1)CS(=O)C1=CC=C(C=C1)N | C10H11N3OS2
